US07417047B2
Step b) (5-Butyl-thiophen-2-yl)-oxo-acetic acid
To solution containing (5-butyl-thiophen-2-yl)-oxo-acetic acid ethyl ester (Step a, 1 g, 4.2 mmol) dissolved in ethanol 10 mL) was added K2CO3 2N (10 mL). The reaction was stirred at room temperature 6 h. The ethanol was removed under reduce pressure and the residue taken in water (50 mL) then washed with ether. The aqueous was separated and made acidic with concentrated HCl then extracted with CHCl3 (2×). The organic layers were separated and combined and dried over MgSO4, then filtered and stripped. A white solid (0.6 g, 67% yield) was recovered. MS m/e 211 (M)−; 1HNMR (DMSO-d6 300 MHz) δ 0.9 (t, 3H), 1.3 (m, 2H), 1.6 (m, 2H), 2.8 (t, 2H), 4.3 (b, 1H), 7.1 (s, 1H), 7.9 (s, 1H).

reactant | (5-butyl-thiophen-2-yl)-oxo-acetic acid ethyl ester | C(C)OC(C(=O)C=1SC(=CC1)CCCC)=O | C12H16O3S
reactant | K2CO3 | 2N, 10 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (5-Butyl-thiophen-2-yl)-oxo-acetic acid | 0.6 g, 67% yield | C(CCC)C1=CC=C(S1)C(C(=O)O)=O | C10H12O3S
